US04010202
In the presence of 1.53 parts of 5 % palladium-on-carbon, 1.5 parts of 2-cyclobutylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide in 200 volume parts of water is subjected to catalytic reduction at ordinary temperature and pressure. When a stoichiometric amount of hydrogen has been absorbed, the reaction mixture is filtered to remove the catalyst and filtrate is freeze-dried. The residue is recrystallized from a mixture of water, ethanol and ethyl ether, whereby 2-cyclobutylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide is obtained as colorless crystals. Yield 0.65 part; melting point: 190°-200° C (decomposition).

reactant | 2-cyclobutylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.C1(CCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)=O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | O | H2O
product | 2-cyclobutylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C1(CCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)O | InChI=1S/C14H19NO3.BrH/c16-12-7-5-9-10(14(12)18)4-6-11(13(9)17)15-8-2-1-3-8;/h5,7-8,11,13,15-18H,1-4,6H2;1H
